US07517873B2
To a suspension of 16.67 g (0.0379 mole) of 4-(9-cyclopentyl-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-38) in 500 mL of dimethylformamide was added 8.26 g (0.0612 mole) of 1-hydroxybenzotriazole, 22.44 g (0.0592 mole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium 3-oxide hexafluorophosphate. The mixture was stirred for 30 minutes and then 6.60 g (0.0580 mole) of 4-amino-1-methylpiperidine was added. The reaction mixture was stirred for an additional and then concentrated under reduced pressure. The residue was partitioned between 800 mL of ethyl acetate and 200 mL of water. The aqueous layer was extracted with twice with 300 mL of ethyl acetate. The combined organic extracts were washed successively three times with 1 M sodium hydroxide, twice with 200 mL of brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol-isopropylamine (190:10:1-160:40:1) to give 15.32 g of 4-(9-cyclopentyl-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-39).

reactant | 4-(9-cyclopentyl-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.0379 mole, 16.67 g | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C23H29N5O4
reactant | 1-hydroxybenzotriazole | 0.0612 mole, 8.26 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium 3-oxide hexafluorophosphate | 0.0592 mole, 22.44 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | 4-amino-1-methylpiperidine | 0.0580 mole, 6.60 g | NC1CCN(CC1)C | C6H14N2
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 15.32 g | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C29H41N7O3
